US04016209
3-[N'-(3-Hydroxypropyl)-N'-methylamino]-N,N,N-trimethyl-1-propanaminium Bromide
A mixture of 20 g. of oxetane (0.34 mole), 32.8 g. of N,N,N-trimethyl-[3-(methylamino)]-1-propanaminium bromide (0.156 mole) and 22 ml. water is heated in a sealed tube at 100° for 15 hours. The solution is evaporated in vacuo and the residue is dissolved in 50 ml. of acetonitrile and filtered. Upon evaporation the desired product crystallizes. The product may be recrystallized from acetonitrile.

reactant | oxetane | 0.34 mole | O1CCC1 | C3H6O
reactant | N,N,N-trimethyl-[3-(methylamino)]-1-propanaminium bromide | 0.156 mole | [Br-].C[N+](CCCNC)(C)C
solvent | water | O | H2O
product | 3-[N'-(3-Hydroxypropyl)-N'-methylamino]-N,N,N-trimethyl-1-propanaminium Bromide | [Br-].OCCCN(C)CCC[N+](C)(C)C | InChI=1S/C10H25N2O.BrH/c1-11(8-6-10-13)7-5-9-12(2,3)4;/h13H,5-10H2,1-4H3;1H/q+1;/p-1
